US04684722
To a solution of 2-[(1,3-dioxo-2H-isoindol-2-yl)oxy]-2-propenoic acid, diphenylmethyl ester (6.07 g, 15.2 mmole) in 375 ml of methylene chloride under argon at 0° C. was added hydrazine hydrate (0.76 g, 15.2 mmole) in 4 ml absolute ethanol. After one hour at 0° C., the mixture was evaporated to dryness at +10° C. and triturated with ethyl ether. Filtration and concentration of the filtrates gave 2-aminooxy-2-propenoic acid, diphenylmethyl ester as a residue. This compound was then treated at 20° C. with a solution of 2-amino-4-thiazoleglyoxylic acid (2.61 g, 15.2 mmole) in dimethylformamide (50 ml), followed by 5 ml of water. The reaction was stirred at 20° C. for 20 hours, and was then chilled and diluted with 250 ml of water. Stirring of the resulting gum gave a granular solid which was filtered, washed with water, and then azeotroped with acetonitrile to dryness. The dry solid was slurried with 100 ml of acetonitrile, filtered, and finally washed sequentially with acetonitrile, ethyl ether, and hexane. Drying in air gave 1.97 g of the title compound.

reactant | 2-[(1,3-dioxo-2H-isoindol-2-yl)oxy]-2-propenoic acid, diphenylmethyl ester | 15.2 mmole, 6.07 g | O=C1N(C(C2=CC=CC=C12)=O)OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C | C24H17NO5
reactant | hydrazine hydrate | 15.2 mmole, 0.76 g | O.NN
solvent | methylene chloride | 375 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-aminooxy-2-propenoic acid, diphenylmethyl ester | NOC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C | C16H15NO3
